US06846961B2
Preparation of rac-1,2-bis(3,5-di-tert-butylsalicylamino)cyclohexane (Salen 1)
Rac-trans-1,2-diaminocyclohexane (6.09 g, 53 mmol) was dissolved in 300 ml of ethanol and placed in a three-necked flask fitted with a mechanical stirrer. 3,5-Di-tert-butylsalicylaldehyde (25.0 g, 107 mmol) was then added. The mixture was subsequently refluxed for one hour, forming a red suspention. After cooling, about 100 ml of water were added dropwise while stirring. The precipitate formed was filtered off and washed with a small portion of 95% strength ethanol, giving 29.8 g of crude product. This was purified by recrystallizing it once from 350 ml of ethanol. This gave 27.18 g of pure product as a yellow powder. The yield was 94%.

reactant | Rac-trans-1,2-diaminocyclohexane | 53 mmol, 6.09 g | N[C@H]1[C@@H](CCCC1)N | C6H14N2
reactant | 3,5-Di-tert-butylsalicylaldehyde | 107 mmol, 25.0 g | C(C)(C)(C)C1=C(C(C=O)=CC(=C1)C(C)(C)C)O | C15H22O2
reactant | water | about 100 ml | O | H2O
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | rac-1,2-bis(3,5-di-tert-butylsalicylamino)cyclohexane | 29.8 g, yield was 94% | C(C)(C)(C)C1=C(C(CNC2C(CCCC2)NCC=2C(O)=C(C=C(C2)C(C)(C)C)C(C)(C)C)=CC(=C1)C(C)(C)C)O | C36H58N2O2
